US04367226
N-β-D-Glucopyranosyl-N',N'-diethylthiourea
N-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-5-benzylidenerhodanine (1.102 g., 0.002 mole) was added to a solution of diethylamine (1.76 g., 0.024 mole) in 50 ml. of methanol in a pressure bottle. The reaction mixture was stirred at room temperature for 21 hours in the pressure bottle with the stopper well closed. The mixture was filtered and the filtrate was evaporated to a brownish syrupy material below 30° in vacuo. The residue was dissolved in the minimum amount of acetone, and anhydrous ether was added to the solution to give a sticky solid. The supernatant was decanted, and the residual solid was dried at room temperature in vacuo. The solid was partially dissolved in ethyl acetate to give a slurry, and chromatographed on a column of silica gel (1×20 cm) using ethyl acetate as the first solvent (60 ml.) and acetone as the second solvent (100 ml.). The 100 ml. of acetone effluent was reduced to ca. 25 ml. and was set aside at room temperature. The beige crystalls were filtered, washed with acetone, and dried at room temperature in vacuo, yielding 0.51 g. (81.5%); m.p. 106°-109°(dec.)

reactant | N-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-5-benzylidenerhodanine | 0.002 mole, 1.102 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N1C(SC(C1=O)=CC1=CC=CC=C1)=S | C24H25NO10S2
reactant | diethylamine | 0.024 mole, 1.76 g | C(C)NCC | C4H11N
solvent | methanol | CO | CH4O
product | N-β-D-Glucopyranosyl-N',N'-diethylthiourea | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(=S)N(CC)CC | C11H22N2O5S
